US06815458B2
4-(4-Chlorobenzylamino)-1-methyl-piperidine (47AKU-27)
1-Methyl-4-piperidone (566 mg, 5.0 mmol) was dissolved in 10 ml methanol and placed in 100 ml flask. 4-Chlorobenzylamine (708 mg, 5.0 mmol) was added. Mixture was stirred and Acetic acid (˜0.75 ml) was added until pH˜5. NaCNBH3 (628 mg, 10 mmol) was slowly added. Gas evolution observed. After magnetic stirring for 16 hrs methanol was partly removed on Rotavapor (40° C.). Dichloromethane, 2M NaOH and water were added until pH˜10. Phases were separated and aq. phase was then re-extracted with dichloromethane. Combined organic phases were dried over MgSO4. Concentration on Rotavapor (40° C.) yielded 1.14 g crude 47AKU-27. TLC (10% methanol in dichloromethane): Rf=0.3. HPLC-MS (Method A): M+=239.1 (MS(%)=96).

reactant | 1-Methyl-4-piperidone | 5.0 mmol, 566 mg | CN1CCC(CC1)=O | C6H11NO
reactant | 4-Chlorobenzylamine | 5.0 mmol, 708 mg | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | Acetic acid | ˜0.75 ml | C(C)(=O)O | C2H4O2
reactant | NaCNBH3 | 10 mmol, 628 mg | [BH3-]C#N.[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(4-Chlorobenzylamino)-1-methyl-piperidine | ClC1=CC=C(CNC2CCN(CC2)C)C=C1 | C13H19ClN2
